US04775671
6.5 g (20 mmol) of 1-[(8-fluoro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepin-3-yl)carbonyl]imidazole are stirred at 100° for 1 hour together with 2.2 g (22 mmol) of cyclopropanecarboxamidoxime in 25 ml of N,N-dimethylformamide. The mixture is then evaporated to dryness, 50 ml of glacial acetic acid are added to the residue and the mixture is heated to reflux for 1 hour. The mixture is again evaporated to dryness in vacuo and the residue is dissolved in methylene chloride. The methylene chloride solution is washed twice with sodium bicarbonate solution, subsequently dried with magnesium sulphate and evaporated. By recrystallization from methylene chloride/ethyl acetate there is obtained 3-(3-cyclopropyl-1,2,4-oxadiazol-5-yl)-8-fluoro-5,6-dihydro-5-methyl-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one of melting point 216°-217°.

reactant | 1-[(8-fluoro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepin-3-yl)carbonyl]imidazole | 20 mmol, 6.5 g | FC=1C=CC2=C(C(N(CC=3N2C=NC3C(=O)N3C=NC=C3)C)=O)C1 | C16H12FN5O2
reactant | cyclopropanecarboxamidoxime | 22 mmol, 2.2 g | C1(CC1)C(N)=NO | C4H8N2O
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 3-(3-cyclopropyl-1,2,4-oxadiazol-5-yl)-8-fluoro-5,6-dihydro-5-methyl-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | C1(CC1)C1=NOC(=N1)C=1N=CN2C1CN(C(C1=C2C=CC(=C1)F)=O)C | C17H14FN5O2
